US04127655
(a) 8-Ethyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]-triazolo[1,5-a]pyrimidin-5(8H)-one
249 g. of 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester (1 mol.) are refluxed in 1.5 liters of dry dioxane together with 98 g. of ethoxymethylene cyanamide for 12 hours. After cooling to room temperature, the precipitated 8-ethyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]-pyrimidin-5(8H)-one is filtered off and recrystallized from dimethylformanide, yield 135 g. (53%); m.p. 355°-356°.

reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester | 1 mol | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
reactant | ethoxymethylene cyanamide | C(C)OC=NC#N | C4H6N2O
solvent | dioxane | 1.5 liters | O1CCOCC1 | C4H8O2
product | 8-Ethyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]-triazolo[1,5-a]pyrimidin-5(8H)-one | C(C)N1N=CC2=C1N=CC=1C(NC=3N(C12)N=CN3)=O | C11H9N7O
